US07355052B2
Stage 3: methyl 4-amino-3-({3-[(tert-butoxycarbonyl)amino]propyl}amino)benzoate
Methyl 3-({3-[(tert-butoxycarbonyl)amino]propyl}amino)-4-nitrobenzoate (10.2 g) in solution in a mixture of ethyl acetate/methanol 3:1 (300 ml), and 10% palladium on carbon (1.02 g) are introduced into an autoclave. After stirring for 4 hours under a hydrogen atmosphere (3 bar) at a temperature of approximately 20° C., the catalyst is eliminated by filtration on celite and the filtrate is concentrated under reduced pressure at 40° C. in order to produce the expected compound in the form of an oil (7.75 g; 83% yield).

reactant | Methyl 3-({3-[(tert-butoxycarbonyl)amino]propyl}amino)-4-nitrobenzoate | 10.2 g | C(C)(C)(C)OC(=O)NCCCNC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C16H23N3O6
solvent | ethyl acetate methanol | 300 ml | C(C)(=O)OCC.CO
catalyst | palladium on carbon | 1.02 g | [Pd] | Pd
product | methyl 4-amino-3-({3-[(tert-butoxycarbonyl)amino]propyl}amino)benzoate | 83% yield | NC1=C(C=C(C(=O)OC)C=C1)NCCCNC(=O)OC(C)(C)C | C16H25N3O4
